US06136805
2.5 g of N-[2-amino-4-trifluoromethyl-5-(2(-4-chlorophenoxy)ethoxy)phenyl]-aminomethanephosphonic acid diethyl ester is introduced in 60 ml of tetrahydrofuran with 733 mg of triethylamine and mixed drop by drop at room temperature with a solution of 719 mg (0.59 ml) of oxalic acid ethyl ester chloride in 15 ml of tetrahydrofuran. Then, it is stirred for 2 hours at room temperature. After triethylammonium hydrochloride is suctioned out, the filtrate is concentrated by evaporation. The residue is taken up in 25 ml of ethanol and 25 ml of 1N hydrochloric acid and heated for 2 hours to a bath temperature of 120° C. After the ethanol is distilled off, it is diluted with water to 50 ml, and extracted three times with 50 ml of ethyl acetate each. The ethyl acetate phase is washed with water, dried, filtered and concentrated by evaporation. The residue is chromatographed on silica gel with methylene chloride:ethanol=10:1. 810 mg of [(6-trifluoromethyl-7-(2(-4-chlorophenoxy)ethoxy)-1,2,3,4-tetrahydro-2,3-dioxoquinoxalin-1-yl]methanephosphonic acid diethyl ester is obtained.

reactant | N-[2-amino-4-trifluoromethyl-5-(2(-4-chlorophenoxy)ethoxy)phenyl]-aminomethanephosphonic acid diethyl ester | 2.5 g | C(C)OP(OCC)(=O)CNC1=C(C=C(C(=C1)OCCOC1=CC=C(C=C1)Cl)C(F)(F)F)N | C20H25ClF3N2O5P
reactant | triethylamine | 733 mg | C(C)N(CC)CC | C6H15N
reactant | oxalic acid ethyl ester chloride | 0.59 ml, 719 mg | [Cl-].C(C)OC(C(=O)O)=O
reactant | triethylammonium hydrochloride | Cl.C(C)[NH+](CC)CC
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | (6-trifluoromethyl-7-(2(-4-chlorophenoxy)ethoxy)-1,2,3,4-tetrahydro-2,3-dioxoquinoxalin-1-yl]methanephosphonic acid diethyl ester | C(C)OP(OCC)(=O)CN1C(C(NC2=CC(=C(C=C12)OCCOC1=CC=C(C=C1)Cl)C(F)(F)F)=O)=O | C22H23ClF3N2O7P
